US06258817B1
A solution of N-(isobutoxycarbonyl)-2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (830 mg) and sodium methoxide (433 mg) in methanol (25 ml) was heated under reflux for 1 hour. Volatile material was removed by evaporation and saturated ammonium chloride solution (20 ml) was added to the residue. The mixture was extracted with ethyl acetate (2×20 ml) and the extracts were washed with water (2×15 ml) and dried (MgSO4). The solvent was removed by evaporation and the residue was purified by flash chromatography, eluting with 25-50% ethyl acetate/hexane, to give 2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (190 mg), m.p. 144-146° C.; microanalysis found: C, 55.2; H, 4.3; N, 13.3%; C23H24BrN4O4S requires: C, 55.1; H, 4.4; N, 13.5%.

reactant | N-(isobutoxycarbonyl)-2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 830 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C(=O)OC)C1=NC=C(N=C1OC)C | C24H26N4O7S
reactant | sodium methoxide | 433 mg | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-(4-methoxycarbonylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 190 mg | COC(=O)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C19H18N4O5S
